### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Topology): Add Flasque Sheaves

### PR DESCRIPTION
**Pull request by Brian-Nugent**
This PR defines flasque sheaves on a topological space as sheaves where all restriction morphisms are epimorphisms. The main result of this PR is `TopCat.Sheaf.IsFlasque.epi_of_shortExact` which says a short exact sequence where the first sheaf is flasque remains exact on sections.

---

- [x] depends on: #34267 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sheaves/Flasque.lean
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]: Since the definition does not require the sheaf condition, could we have it for presheaves instead? Something like so:
```suggestion
namespace TopCat

namespace Presheaf

/-- A sheaf is flasque if all of the restriction morphisms are epimorphisms. -/
class IsFlasque {C : Type v} [Category.{w} C] (F : Presheaf C X) : Prop where
  epi : ∀{U V : Opens X} (i : U ⟶ V), Epi (F.map i.op)

namespace IsFlasque

instance (priority := low) {C : Type v} [Category.{w} C] (F : Presheaf C X) [h : IsFlasque F]
    {U V : Opens X} (i : U ⟶ V) : Epi (F.map i.op) := h.epi i

end IsFlasque

end Presheaf

namespace Sheaf

abbrev IsFlasque {C : Type v} [Category.{w} C] (F : Sheaf C X) := Presheaf.IsFlasque F.val

namespace IsFlasque
```

Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
lemma Under.R.chains_bounded (c : Set (Under g s)) (h : IsChain (R g s) c) :
    ∃ ub, ∀ a ∈ c, (R g s) a ub := by
  let f : c → (Opens X) := fun x => x.val.V
  obtain ⟨t, ht, _⟩ : ∃! s_1, IsGluing F.val f (fun x => x.val.sec) s_1 := by
    refine Sheaf.existsUnique_gluing F _ _ (fun i j ↦ ?_)
    by_cases hij : i = j
    · subst hij; rfl
    dsimp
    obtain h1 | h1 := h i.property j.property (by grind)
    · rw [← h1.restricts]
      have := h1.le
      change (j.1.sec |_ i.1.V) |_ ((f i) ⊓ (f j)) = j.1.sec |_ ((f i) ⊓ (f j))
      rw [restrict_restrict]
    · rw [← h1.restricts]
      have := h1.1
      change i.1.sec |_ ((f i) ⊓ (f j)) = (i.1.sec |_ j.1.V) |_ ((f i) ⊓ (f j))
      rw [restrict_restrict]
  have le : iSup f ≤ U := by simp only [iSup_le_iff, Subtype.forall]; exact fun a _ => a.le
  use ⟨iSup f, le, t, eq_app_of_forall_eq ht _ (fun i => i.val.app_s)⟩
  exact fun a ha => ⟨_, ht ⟨a, ha⟩⟩
```

Comment (smorel394) [reply Mathlib/Topology/Sheaves/Flasque.lean]: (Just small style changes.)

Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
    obtain ⟨W, Wle, ⟨t₁, ht₁⟩, hW⟩ := (isLocallySurjective_iff S.g.val).mp this U s x hx
    --`t.sec` and `t₁` need not agree on their overlap so we need to deal with their difference `t₂`
    let t₂ := t.sec |_ (t.V ⊓ W) - t₁ |_ (t.V ⊓ W)
    have : (S.g.val.app (op (t.V ⊓ W))) t₂ = 0 := by
      simp only [map_sub, map_restrict, t.app_s, restrict_restrict, ht₁, sub_eq_zero, t₂]
    -- Since `S` is exact and `t₂` maps to zero, we can lift it to a section `t₃` of `S.X₁`
    obtain ⟨t₃, ht₃⟩ := addCommGrpCat_shortExact_app_zero t₂ this hS.1 hS.2
    have i₁ : t.V ⊓ W ⟶ W := homOfLE inf_le_right
    -- Using that `S.X₁` is flasque, we can lift `t₃` to a section on `W`
    obtain ⟨t₄, (ht₄ : t₄ |_ (t.V ⊓ W) = t₃)⟩ :=
      (AddCommGrpCat.epi_iff_surjective (S.X₁.val.map i₁.op)).mp inferInstance t₃
    let f : Fin 2 → Opens X
    | 0 => t.V
    | 1 => W
    let sf : (i : Fin 2) → S.X₂.val.obj (op (f i))
    | 0 => t.sec
    | 1 => t₁ + (S.f.val.app (op W)) t₄
    have : sf 0 |_ (t.V ⊓ W) = sf 1 |_ (t.V ⊓ W) := by
      rw [restrict_sum, ← map_restrict, ht₄]
      simp only [ht₃, t₂, Fin.isValue, add_sub_cancel]
      rfl
    -- We glue `t.sec` and `t₁ + (S.f.val.app (op W)) t₄` together to form `t₅`
    obtain ⟨t₅, ht₅, _⟩ : ∃! t₅, IsGluing S.X₂.val f sf t₅ := by
      apply Sheaf.existsUnique_gluing
      simp only [IsCompatible, Fin.forall_fin_two]
      exact ⟨⟨rfl, this⟩, Eq.symm (restrict_inf_flip this), rfl⟩
    have le : iSup f ≤ U := by
      simp only [iSup_le_iff, Fin.forall_fin_two]
      exact ⟨t.le, Wle⟩
    have app : S.g.val.app (op (iSup f)) t₅ = s |_ (iSup f) := by
      apply eq_app_of_forall_eq ht₅
        (by rw [Fin.forall_fin_two]; exact ⟨t.le, Wle⟩) ?_
      rw [Fin.forall_fin_two]
      refine ⟨t.app_s, ?_⟩
      change S.g.val.app (op W) (t₁ + (S.f.val.app (op W)) t₄) = s |_ W
      have : (S.f.val.app (op W) ≫ S.g.val.app (op W)) = 0 := by
        change (S.f ≫ S.g).val.app (op W) = 0; rw [S.6]; rfl
      simp only [map_add, ← ConcreteCategory.comp_apply, this, AddCommGrpCat.hom_zero,
        AddMonoidHom.zero_apply, add_zero]
      exact ht₁
    let t₆ : Under S.g s := ⟨iSup f, le, t₅, app⟩
    have htt₆ : R S.g s t t₆ := ⟨_, ht₅ 0⟩
    exact (ht t₆ htt₆).le (by cat_disch)
  use t.sec |_ U
  conv => rhs; equals (S.g.val.app (op t.V)) t.sec |_ U =>
    rw [t.app_s, restrict_restrict, restrictOpen, restrict]
    cat_disch
  apply map_restrict
```

Comment (smorel394) [reply Mathlib/Topology/Sheaves/Flasque.lean]: Lemma `isLocallySurjective_iff` gave an equivalent condition that was not convenient when you work with topological spaces. We just changed it in mathlib, so now your code is a bit simpler.

**Comment by smorel394** [comment]
Outside of the details I pointed out above, the PR looks pretty good to me.

**Comment by Brian-Nugent** [comment]
@smorel394, I appreciate your suggestions, especially the one about changing the definition to be for presheaves. I think you may have forgotten to delete the lines you were changing, so everything just appeared twice. Or maybe it is something wrong on my end. Anyway, I went back though edited it to match your suggestions.

**Comment by smorel394** [comment]
> @smorel394, I appreciate your suggestions, especially the one about changing the definition to be for presheaves. I think you may have forgotten to delete the lines you were changing, so everything just appeared twice. Or maybe it is something wrong on my end. Anyway, I went back though edited it to match your suggestions.

Yes, I think I botched that suggestion, sorry about that!

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+
+namespace TopCat
+
+variable {X : TopCat.{u}} {U : Opens X}
+
+set_option backward.isDefEq.respectTransparency false
+
+theorem Presheaf.addCommGrpCat_shortExact_app_zero {S : ShortComplex (Presheaf AddCommGrpCat.{u} X)}
+    {s : S.X₂.obj (op U)} (h : S.g.app (op U) s = 0) (hS : S.Exact) :
+    ∃(t : S.X₁.obj (op U)), S.f.app (op U) t = s := by
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: It may be difficult to infer `S` before `hS` is given:
```suggestion
    (hS : S.Exact) {s : S.X₂.obj (op U)} (h : S.g.app (op U) s = 0) :
    ∃ (t : S.X₁.obj (op U)), S.f.app (op U) t = s := by
```

Comment (joelriou) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: Could you do the same for other lemmas?

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 2]
```diff
@@ -0,0 +1,185 @@
...
+      rw [restrict_restrict]
+    · rw [← h1.restricts]
+      have := h1.le
+      change i.1.sec |_ ((f i) ⊓ (f j)) = (i.1.sec |_ j.1.V) |_ ((f i) ⊓ (f j))
+      rw [restrict_restrict]
+  use ⟨iSup f, iSup_le <| fun j => j.1.le, t, eq_app_of_forall_eq ht _ (fun i => i.val.app_s)⟩
+  exact fun a ha => ⟨_, ht ⟨a, ha⟩⟩
+
+set_option backward.isDefEq.respectTransparency false
+
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]: Could you add this option for each individual declaration for which it is necessary?
```suggestion
set_option backward.isDefEq.respectTransparency false in
```

Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/Flasque.lean]: Yes

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean (hunk 1 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: Yes, thank you

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 3]
```diff
@@ -0,0 +1,52 @@
...
+  exact h
+
+lemma Presheaf.restrict_sum {V : Opens X} {F : Presheaf AddCommGrpCat X} (h : V ≤ U)
+    (s t : F.obj (op U)) : (s + t) |_ V = s |_V + t |_V := by
+  delta Presheaf.restrictOpen Presheaf.restrict
+  cat_disch
+
+lemma Sheaf.addCommGrpCat_shortExact_app_zero {S : ShortComplex (Sheaf AddCommGrpCat X)}
+    (hS : S.Exact) (hf : Mono S.f) (s : S.X₂.val.obj (op U)) (h : S.g.val.app (op U) s = 0) :
+    ∃(t : S.X₁.val.obj (op U)), S.f.val.app (op U) t = s := by
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]:
```suggestion
    ∃ (t : S.X₁.val.obj (op U)), S.f.val.app (op U) t = s := by
```

Comment (smorel394) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: He wants you to add spaces after the `∃`, and I think there are several occurrences.

File: Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean [hunk 4]
```diff
@@ -251,6 +251,18 @@ theorem eq_of_locally_eq₂ {U₁ U₂ V : Opens X} (i₁ : U₁ ⟶ V) (i₂ :
...
+variable {F} {U} in
+theorem eq_app_of_forall_eq {V : Opens X} {G : Sheaf C X} {f : F ⟶ G}
+    {s : ToType (F.1.obj (op (iSup U)))} {t : ToType (G.1.obj (op V))}
+    {sf : ∀ i : ι, ToType (F.1.obj (op (U i)))} (h : IsGluing F.1 U sf s) (hV : ∀ i : ι, U i ≤ V)
+    (ht : ∀ i : ι, f.1.app (op (U i)) (sf i) = G.1.map (homOfLE (hV i)).op t) :
+    f.val.app (op (iSup U)) s = G.val.map (homOfLE (by aesop_cat)).op t := by
+  apply eq_of_locally_eq G U
+  intro i
+  conv => lhs; equals f.1.app (op (U i)) (sf i) => rw[← h i]; simp
+  rw[ht i, ← ConcreteCategory.comp_apply, ← Functor.map_comp]
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean]:
```suggestion
  rw [ht i, ← ConcreteCategory.comp_apply, ← Functor.map_comp]
```

File: Mathlib/Topology/Sheaves/LocallySurjective.lean [hunk 5]
```diff
@@ -117,6 +118,31 @@ theorem locally_surjective_iff_surjective_on_stalks (T : ℱ ⟶ 𝒢) :
...
+  [(Opens.grothendieckTopology X).HasSheafCompose (forget C)]
+  [HasSheafify (Opens.grothendieckTopology X) C]
+  [(Opens.grothendieckTopology X).WEqualsLocallyBijective C]
+  [ConcreteCategory.HasFunctorialSurjectiveInjectiveFactorization C]
+
+theorem isLocallySurjective_iff' {F G : Sheaf C X} (φ : F ⟶ G) :
+    IsLocallySurjective φ.val ↔ Epi φ := by
+  change CategoryTheory.Sheaf.IsLocallySurjective φ ↔ Epi φ
+  rw [CategoryTheory.Sheaf.isLocallySurjective_iff_epi']
+  rfl
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/LocallySurjective.lean]:
```suggestion
    IsLocallySurjective φ.val ↔ Epi φ :=
  CategoryTheory.Sheaf.isLocallySurjective_iff_epi' ..
```

File: Mathlib/Topology/Sheaves/LocallySurjective.lean [hunk 6]
```diff
@@ -117,6 +118,31 @@ theorem locally_surjective_iff_surjective_on_stalks (T : ℱ ⟶ 𝒢) :
...
+    [ConcreteCategory C FC] [Balanced (CategoryTheory.Sheaf (Opens.grothendieckTopology X) C)]
+    [(Opens.grothendieckTopology X).HasSheafCompose (CategoryTheory.forget C)]
+    [HasSheafify (Opens.grothendieckTopology X) C]
+    [(Opens.grothendieckTopology X).WEqualsLocallyBijective C]
+    [ConcreteCategory.HasFunctorialSurjectiveInjectiveFactorization C]
+    {F G : Sheaf C X} (φ : F ⟶ G) :
+    TopCat.Presheaf.IsLocallySurjective φ.val ↔ Epi φ := by
+  change CategoryTheory.Sheaf.IsLocallySurjective φ ↔ Epi φ
+  rw [CategoryTheory.Sheaf.isLocallySurjective_iff_epi']
+  rfl
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/LocallySurjective.lean]:
```suggestion
    TopCat.Presheaf.IsLocallySurjective φ.val ↔ Epi φ :=
  CategoryTheory.Sheaf.isLocallySurjective_iff_epi' ..
```

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 7]
```diff
@@ -0,0 +1,52 @@
...
+
+open TopologicalSpace Opposite CategoryTheory
+open scoped AlgebraicGeometry
+
+namespace TopCat
+
+variable {X : TopCat.{u}} {U : Opens X}
+
+set_option backward.isDefEq.respectTransparency false in
+theorem Presheaf.addCommGrpCat_shortExact_app_zero {S : ShortComplex (Presheaf AddCommGrpCat.{u} X)}
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: The names in this file should be fixed: here, there is no `ShortExact` in the assumption, and the meaning of `zero` is unclear.

File: Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean [hunk 8]
```diff
@@ -251,6 +251,18 @@ theorem eq_of_locally_eq₂ {U₁ U₂ V : Opens X} (i₁ : U₁ ⟶ V) (i₂ :
...
+theorem eq_app_of_forall_eq {V : Opens X} {G : Sheaf C X} {f : F ⟶ G}
+    {s : ToType (F.1.obj (op (iSup U)))} {t : ToType (G.1.obj (op V))}
+    {sf : ∀ i : ι, ToType (F.1.obj (op (U i)))} (h : IsGluing F.1 U sf s) (hV : ∀ i : ι, U i ≤ V)
+    (ht : ∀ i : ι, f.1.app (op (U i)) (sf i) = G.1.map (homOfLE (hV i)).op t) :
+    f.val.app (op (iSup U)) s = G.val.map (homOfLE (by aesop_cat)).op t := by
+  apply eq_of_locally_eq G U
+  intro i
+  conv => lhs; equals f.1.app (op (U i)) (sf i) => rw [← h i]; simp
+  rw [ht i, ← ConcreteCategory.comp_apply, ← Functor.map_comp]
+  congr
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean]:
```suggestion
  refine eq_of_locally_eq G U _ _ (fun _ ↦ ?_)
  rw [← NatTrans.naturality_apply, h, ht, ← ConcreteCategory.comp_apply, ← Functor.map_comp]
  rfl
```

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 9]
```diff
@@ -0,0 +1,52 @@
...
+set_option backward.isDefEq.respectTransparency false in
+theorem Presheaf.addCommGrpCat_exact {S : ShortComplex (Presheaf AddCommGrpCat.{u} X)}
+    (hS : S.Exact) {s : S.X₂.obj (op U)} (h : S.g.app (op U) s = 0) :
+    ∃ (t : S.X₁.obj (op U)), S.f.app (op U) t = s := by
+  dsimp [Presheaf] at S
+  let F := (evaluation (Opens X)ᵒᵖ AddCommGrpCat.{u}).obj (op U)
+  apply (ShortComplex.ab_exact_iff (S.map F)).mp
+  · have := ((Functor.exact_tfae F).out 1 3).mpr
+    exact this ⟨inferInstance, inferInstance⟩ S hS
+  exact h
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]:
```suggestion
  dsimp [Presheaf] at S
  let F := (evaluation (Opens X)ᵒᵖ AddCommGrpCat.{u}).obj (op U)
  exact (ShortComplex.ab_exact_iff (S.map F)).mp (((Functor.exact_tfae F).out 1 3 rfl rfl).mpr
    ⟨inferInstance, inferInstance⟩ S hS) _ h
```

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 10]
```diff
@@ -0,0 +1,52 @@
...
+    (s t : F.obj (op U)) : (s + t) |_ V = s |_V + t |_V := by
+  delta Presheaf.restrictOpen Presheaf.restrict
+  cat_disch
+
+lemma Sheaf.addCommGrpCat_mono_exact {S : ShortComplex (Sheaf AddCommGrpCat X)}
+    (hS : S.Exact) (hf : Mono S.f) (s : S.X₂.val.obj (op U)) (h : S.g.val.app (op U) s = 0) :
+    ∃ (t : S.X₁.val.obj (op U)), S.f.val.app (op U) t = s := by
+  have := ((Functor.preservesFiniteLimits_tfae (forget AddCommGrpCat X)).out 1 3).mpr
+    (inferInstanceAs (Limits.PreservesFiniteLimits (forget AddCommGrpCat X)))
+  exact Presheaf.addCommGrpCat_exact (this S ⟨hS, hf⟩).left h
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]:
```suggestion
lemma Sheaf.addCommGrpCat_mono_exact {S : ShortComplex (Sheaf AddCommGrpCat X)}
    (hS : S.Exact) (hf : Mono S.f) (s : S.X₂.val.obj (op U)) (h : S.g.val.app (op U) s = 0) :
    ∃ (t : S.X₁.val.obj (op U)), S.f.val.app (op U) t = s :=
  Presheaf.addCommGrpCat_exact (((Functor.preservesFiniteLimits_tfae
  (forget AddCommGrpCat X)).out 1 3 rfl rfl).mpr (inferInstanceAs (Limits.PreservesFiniteLimits
  (forget AddCommGrpCat X))) S ⟨hS, hf⟩).left h
```

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 11]
```diff
@@ -0,0 +1,50 @@
...
+    (s t : F.obj (op U)) : (s + t) |_ V = s |_V + t |_V := by
+  delta Presheaf.restrictOpen Presheaf.restrict
+  cat_disch
+
+lemma Sheaf.addCommGrpCat_mono_exact {S : ShortComplex (Sheaf AddCommGrpCat X)}
+    (hS : S.Exact) (hf : Mono S.f) (s : S.X₂.obj.obj (op U)) (h : S.g.hom.app (op U) s = 0) :
+    ∃ (t : S.X₁.obj.obj (op U)), S.f.hom.app (op U) t = s :=
+  Presheaf.addCommGrpCat_exact (((Functor.preservesFiniteLimits_tfae
+  (forget AddCommGrpCat X)).out 1 3 rfl rfl).mpr (inferInstanceAs (Limits.PreservesFiniteLimits
+  (forget AddCommGrpCat X))) S ⟨hS, hf⟩).left h
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: I'm not very happy with the names of the first and third lemmas here (the second is fine), because they are not descriptive at all. 
The first one could maybe called something like `ShortComplex.Exact.sections_exact` if you want to be able to shorten its calls to `hS.sections_exact` (the first explicit argument is of type `ShortComplex.Exact`), or maybe `Presheaf.ShortComplex.sections_exact_of_exact`.
For the second, maybe `ShortComplex.Exact.sections_exact_of_mono_f` or `Sheaf.ShortComplex.sections_exact_of_exact_and_mono_f`.
It would be nice to have the opinion of a mathlib expert on this.

File: Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean [hunk 12]
```diff
@@ -251,6 +251,16 @@ theorem eq_of_locally_eq₂ {U₁ U₂ V : Opens X} (i₁ : U₁ ⟶ V) (i₂ :
       any_goals exact h₁
       any_goals exact h₂
 
+variable {F} {U} in
+theorem eq_app_of_forall_eq {V : Opens X} {G : Sheaf C X} {f : F ⟶ G}
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean]: I would prefer to call this something like `eq_app_of_locally_eq`.

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 13]
```diff
@@ -0,0 +1,196 @@
...
+    | 1 => t₁ + (S.f.hom.app (op W)) t₄
+    have : sf 0 |_ (t.V ⊓ W) = sf 1 |_ (t.V ⊓ W) := by
+      rw [restrict_sum, ← map_restrict, ht₄]
+      simp only [ht₃, t₂, Fin.isValue, add_sub_cancel]
+      rfl
+    -- We glue `t.sec` and `t₁ + (S.f.hom.app (op W)) t₄` together to form `t₅`
+    obtain ⟨t₅, ht₅, _⟩ : ∃! t₅, IsGluing S.X₂.obj f sf t₅ := by
+      apply Sheaf.existsUnique_gluing
+      simp only [IsCompatible, Fin.forall_fin_two]
+      exact ⟨⟨rfl, this⟩, Eq.symm (restrict_inf_flip this), rfl⟩
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
      refine ⟨⟨rfl, this⟩, Eq.symm ?_, rfl⟩
      apply_fun (fun s ↦ restrictOpen s (W ⊓ t.V) (le_of_eq (inf_comm _ _))) at this
      rw [restrict_restrict, restrict_restrict] at this
      exact this
```

File: Mathlib/Topology/Sheaves/Presheaf.lean [hunk 14]
```diff
@@ -142,6 +142,10 @@ theorem map_restrict
   delta restrictOpen restrict
   rw [← ConcreteCategory.comp_apply, NatTrans.naturality, ConcreteCategory.comp_apply]
 
+theorem restrict_inf_flip {F : X.Presheaf C} {U V : Opens X} {s : ToType (F.obj (op U))}
+    {t : ToType (F.obj (op V))} (h : s |_ (U ⊓ V) = t |_ (U ⊓ V)) :
+    s |_ (V ⊓ U) = t |_ (V ⊓ U) := by grind
+
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Presheaf.lean]:
```suggestion
```

This lemma is very specific. I gave a way to remove it from the code in my previous comment, but if you really wanted a lemma like that then I would go with something like:

```suggestion
theorem restrict_restrict_eq_of_eq {F : X.Presheaf C} {U₁ U₂ V W : Opens X} (e₁ : V ≤ U₁)
    (e₂ : V ≤ U₂) (e : W ≤ V) {s : ToType (F.obj (op U₁))}
    {t : ToType (F.obj (op U₂))} (eq : s |_ V = t |_ V) : s |_ W = t |_ W := by sorry
```
then apply it using `le_of_eq (inf_comm W t.V)`.

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean (hunk 11 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: I was thinking to should have addCommGrpCat somewhere in the name since the lemma is specific to (pre)sheaves over AddCommGrpCat. I'm happy to name it to whatever people prefer though, I'm still not very good at the mathlib naming conventions.

Comment (smorel394) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: I'm not sure I understand the mathlib naming conventions that well, but I think that lemma names strive to be as descriptive as possible.
If you want to keep `AddCommGrpCat` then something like `Presheaf.AddCommGrpCat.ShortComplex.sections_exact_of_exact` and `Sheaf.AddCommGrpCat.ShortComplex.sections_exact_of_exact_and_mono_f` maybe? On the other hand, the names I suggested have the advantage that you can use dot notation.
It would be nice to have the opinion of a more experienced reviewer.

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 15]
```diff
@@ -0,0 +1,207 @@
...
+variable {U : Opens X} {F G : Sheaf AddCommGrpCat X} (g : F ⟶ G) (s : G.obj.obj (op U))
+
+/-- Given a morphism of sheaves `g: F ⟶ G` and a section `s` of `G(U)`, `Under g s` is comprised of
+an open `V` and a section of `F(V)` that maps to `s |_ V` via `g`. -/
+abbrev Under := StructuredArrow ⟨op U, s⟩ (Functor.whiskerRight g.hom
+  (CategoryTheory.forget AddCommGrpCat.{u})).mapElements
+
+/-- Given `t₁` and `t₂` in `Under g s`, we say `t₁ ≤ t₂` if `t₁` restricts to `t₂` -/
+def Under.R : Under g s → Under g s → Prop := fun x y ↦ Nonempty (y ⟶ x)
+
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 16]
```diff
@@ -0,0 +1,207 @@
...
+      congr
+  have le₁ : iSup f ≤ U := iSup_le <| fun j => leOfHom j.1.hom.1.unop
+  have le₂ : ∀ i, i ∈ c → unop i.right.1 ≤ iSup f := fun i hi ↦ le_iSup f ⟨i, hi⟩
+  set X : ⟨op U, s⟩ ⟶ (Functor.whiskerRight g.hom
+      (CategoryTheory.forget AddCommGrpCat)).mapElements.obj ⟨op (iSup f), t⟩ := by
+    exact CategoryOfElements.homMk _ _ (homOfLE le₁).op (eq_app_of_forall_eq ht
+      (fun i ↦ leOfHom i.1.hom.1.unop) (fun i ↦ (CategoryOfElements.map_snd i.1.hom).symm)).symm
+  use StructuredArrow.mk X
+  exact fun i hi => Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
+    (homOfLE (le₂ i hi)).op (ht ⟨i, hi⟩)) (by cat_disch))
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
/- The next lemma proves that the relation `fun x y ↦ Nonempty (y ⟶ x)` on `Under g s`
satisfies the requirements for applying Zorn's lemma -/
lemma structured_arrows_elements_sheaf_chains_bounded (c : Set (Under g s))
    (h : IsChain (fun x y ↦ Nonempty (y ⟶ x)) c) : ∃ ub, ∀ a ∈ c, Nonempty (ub ⟶ a) := by
  let f : c → (Opens X) := fun x => x.1.right.1.unop
  obtain ⟨t, ht, _⟩ : ∃! s_1, IsGluing F.obj f (fun x => x.val.right.2) s_1 := by
    refine Sheaf.existsUnique_gluing F _ _ (fun i j ↦ ?_)
    by_cases hij : i = j
    · subst hij; rfl
    obtain h₁ | h₁ := h i.property j.property (fun h ↦ hij (SetCoe.ext_iff.mp h))
    · simp only [← CategoryOfElements.map_snd (Classical.choice h₁).2, Functor.comp_obj,
        Functor.comp_map, ConcreteCategory.forget_map_eq_coe,
        ← CategoryTheory.comp_apply, ← Functor.map_comp]
      rfl
    · simp only [← CategoryOfElements.map_snd (Classical.choice h₁).2, Functor.comp_obj,
        Functor.comp_map, ConcreteCategory.forget_map_eq_coe, ← CategoryTheory.comp_apply,
        ← Functor.map_comp]
      rfl
  have le₁ : iSup f ≤ U := iSup_le <| fun j => leOfHom j.1.hom.1.unop
  have le₂ : ∀ i, i ∈ c → unop i.right.1 ≤ iSup f := fun i hi ↦ le_iSup f ⟨i, hi⟩
  use StructuredArrow.mk (CategoryOfElements.homMk _ _ (homOfLE le₁).op (eq_app_of_forall_eq ht
      (fun i ↦ leOfHom i.1.hom.1.unop) (fun i ↦ (CategoryOfElements.map_snd i.1.hom).symm)).symm :
      ⟨op U, s⟩ ⟶ (Functor.whiskerRight g.hom
      (CategoryTheory.forget AddCommGrpCat)).mapElements.obj ⟨op (iSup f), t⟩)
  exact fun i hi => Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
    (homOfLE (le₂ i hi)).op (ht ⟨i, hi⟩)) (by cat_disch))
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 17]
```diff
@@ -0,0 +1,207 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+/-- Given a short exact sequence of sheaves, `0 ⟶ 𝓕 ⟶ 𝓖 ⟶ 𝓗 ⟶ 0`, if `𝓕` is flasque then
+`𝓖(U) ⟶ 𝓗(U)` is surjective, for any open `U`. -/
+theorem epi_of_shortExact {S : ShortComplex (Sheaf AddCommGrpCat X)} (hS : S.ShortExact)
+    [IsFlasque S.X₁] : Epi (S.g.1.app (op U)) := by
+  apply (AddCommGrpCat.epi_iff_surjective _).mpr
+  intro s
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
  refine (AddCommGrpCat.epi_iff_surjective _).mpr (fun s ↦ ?_)
  -- We want to find a preimage of `s` by `S.g`.
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 18]
```diff
@@ -0,0 +1,207 @@
...
+  -- We apply Zorn's lemma to obtain a term `t` of `Under S.g s` that is maximal.
+  obtain ⟨t, ht⟩ := exists_maximal_of_chains_bounded
+    (structured_arrows_elements_sheaf_chains_bounded S.g s)
+    (fun h₁ h₂ ↦ Nonempty.intro (Classical.choice h₂ ≫ Classical.choice h₁))
+  have tle : t.right.1.unop ≤ U := leOfHom t.hom.1.unop
+  have tcomp : s |_ t.right.1.unop = (ConcreteCategory.hom (S.g.hom.app t.right.1)) t.right.2 :=
+      CategoryOfElements.map_snd t.hom
+  have : U ≤ t.right.1.unop := by
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean:123]:
```suggestion
  -- We get a section `t.right.2` of `S.g` defined on an open subset `t.right.1.unop` of `U`,
  -- that is sent to the restriction of `s` by `S.g`.
  have : U ≤ t.right.1.unop := by
  -- Prove that the set of definition of `t.right.2` contains `U`.
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 19]
```diff
@@ -0,0 +1,207 @@
...
+    intro x hx
+    have := (isLocallySurjective_iff_epi S.g).mpr hS.epi_g
+    -- We use local surjectivity to find a section of `S.X₂` on a neighborhood `W` of `x` that maps
+    -- to `s |_ W`
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
      -- We use local surjectivity to find a section `t₁` of `S.X₂` on a neighborhood `W` of `x`
    -- that maps to `s |_ W` by `S.g`.
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 20]
```diff
@@ -0,0 +1,207 @@
...
+    -- difference `t₂`
+    let t₂ := t.right.2 |_ (t.right.1.unop ⊓ W) - t₁ |_ (t.right.1.unop ⊓ W)
+    have : (S.g.hom.app (op (t.right.1.unop ⊓ W))) t₂ = 0 := by
+      simp [map_restrict, ← tcomp, restrict_restrict, ht₁, t₂]
+    -- Since `S` is exact and `t₂` maps to zero, we can lift it to a section `t₃` of `S.X₁`
+    obtain ⟨t₃, ht₃⟩ := addCommGrpCat_mono_exact hS.1 hS.2 t₂ this
+    have i₁ : t.right.1.unop ⊓ W ⟶ W := homOfLE inf_le_right
+    -- Using that `S.X₁` is flasque, we can lift `t₃` to a section on `W`
+    obtain ⟨t₄, (ht₄ : t₄ |_ (t.right.1.unop ⊓ W) = t₃)⟩ :=
+      (AddCommGrpCat.epi_iff_surjective (S.X₁.obj.map i₁.op)).mp inferInstance t₃
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
    -- Using that `S.X₁` is flasque, we can lift `t₃` to a section on `W`.
    obtain ⟨t₄, (ht₄ : t₄ |_ (t.right.1.unop ⊓ W) = t₃)⟩ := (AddCommGrpCat.epi_iff_surjective
      (S.X₁.obj.map (homOfLE inf_le_right).op)).mp inferInstance t₃
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 21]
```diff
@@ -0,0 +1,207 @@
...
+    have le : iSup f ≤ U := by
+      simp only [iSup_le_iff, Fin.forall_fin_two]
+      exact ⟨tle, Wle⟩
+    have comp : s |_ (iSup f) = S.g.hom.app (op (iSup f)) t₅:= by
+      refine (eq_app_of_forall_eq ht₅ (by rw [Fin.forall_fin_two]; exact ⟨tle, Wle⟩) ?_).symm
+      rw [Fin.forall_fin_two]
+      refine ⟨tcomp.symm, ?_⟩
+      change S.g.hom.app (op W) (t₁ + (S.f.hom.app (op W)) t₄) = s |_ W
+      have : (S.f.hom.app (op W) ≫ S.g.hom.app (op W)) = 0 := by
+        change (S.f ≫ S.g).hom.app (op W) = 0; rw [S.6]; rfl
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
        rw [← NatTrans.comp_app, ← ObjectProperty.FullSubcategory.comp_hom, S.6]; rfl
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 22]
```diff
@@ -0,0 +1,207 @@
...
+      simp [← ConcreteCategory.comp_apply, this, ht₁]
+    let t₆ : Under S.g s := by
+      refine StructuredArrow.mk ?_ (S := ⟨op U, s⟩)
+        (T := (Functor.whiskerRight S.g.hom (CategoryTheory.forget AddCommGrpCat)).mapElements)
+        (Y := ⟨op (iSup f), t₅⟩)
+      refine CategoryOfElements.homMk _ _ (homOfLE le).op comp
+    have : Under.R S.g s t t₆ := by
+      refine Nonempty.intro ?_
+      exact StructuredArrow.homMk (CategoryOfElements.homMk _ _ (homOfLE (le_iSup f 0)).op (ht₅ 0))
+        (by cat_disch)
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
    -- We upgrade `t₅` to an object in `Under S.g s` that is defined on `t.right.1.unop ⊔ W`.
    let t₆ : Under S.g s := by
      refine StructuredArrow.mk (S := ⟨op U, s⟩)
        (T := (Functor.whiskerRight S.g.hom (CategoryTheory.forget AddCommGrpCat)).mapElements)
        (Y := ⟨op (iSup f), t₅⟩) ?_
      exact CategoryOfElements.homMk _ _ (homOfLE le).op comp
    -- We prove that `t₆` is bigger than `t` for the preorder used on `Under S.g s`.
    have : Nonempty (t₆ ⟶ t) := Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
      (homOfLE (le_iSup f 0)).op (ht₅ 0)) (by cat_disch))
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 23]
```diff
@@ -0,0 +1,207 @@
...
+    apply leOfHom (Classical.choice ((ht t₆) this)).right.1.unop
+    apply (le_iSup f 1)
+    exact hW
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
    exact leOfHom (Classical.choice ((ht t₆) this)).right.1.unop ((le_iSup f 1) hW)
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 24]
```diff
@@ -0,0 +1,207 @@
...
+  use t.right.2 |_ U
+  conv => rhs; equals (S.g.hom.app (op t.right.1.unop)) t.right.2 |_ U =>
+    rw [← tcomp]
+    dsimp
+    change s = S.X₃.obj.map _ _
+    erw [← CategoryTheory.comp_apply, ← Functor.map_comp]
+    conv_rhs => congr; congr; congr; equals 𝟙 _ => exact Subsingleton.elim _ _
+    simp
+  apply map_restrict
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
  conv_rhs => equals (S.g.hom.app (op t.right.1.unop)) t.right.2 |_ U =>
    rw [← tcomp, restrict_restrict]
    change _ = (CategoryTheory.ConcreteCategory.hom (S.X₃.obj.map (𝟙 _))) s
    simp [CategoryTheory.Functor.map_id]
  exact map_restrict ..
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 25]
```diff
@@ -0,0 +1,200 @@
...
+    -- We prove that `t₆` is bigger than `t` for the preorder used on `Under S.g s`.
+    have : Nonempty (t₆ ⟶ t) := Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
+      (homOfLE (le_iSup f 0)).op (ht₅ 0)) (by cat_disch))
+    exact leOfHom (Classical.choice ((ht t₆) this)).right.1.unop ((le_iSup f 1) hW)
+  use t.right.2 |_ U
+  conv_rhs => equals (S.g.hom.app (op t.right.1.unop)) t.right.2 |_ U =>
+    rw [← tcomp, restrict_restrict]
+    change _ = (CategoryTheory.ConcreteCategory.hom (S.X₃.obj.map (𝟙 _))) s
+    simp [CategoryTheory.Functor.map_id]
+  exact map_restrict ..
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
  rw [map_restrict, ← tcomp, restrict_restrict]
  change (CategoryTheory.ConcreteCategory.hom (S.X₃.obj.map (𝟙 _))) s = _
  simp [CategoryTheory.Functor.map_id]
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 26]
```diff
@@ -0,0 +1,200 @@
...
+    obtain ⟨t₅, ht₅, _⟩ : ∃! t₅, IsGluing S.X₂.obj f sf t₅ := by
+      apply Sheaf.existsUnique_gluing
+      simp only [IsCompatible, Fin.forall_fin_two]
+      refine ⟨⟨rfl, this⟩, Eq.symm ?_, rfl⟩
+      apply_fun (fun s ↦ restrictOpen s (W ⊓ t.right.1.unop) (le_of_eq (inf_comm _ _))) at this
+      rw [restrict_restrict, restrict_restrict] at this
+      exact this
+    have le : iSup f ≤ U := by
+      simp only [iSup_le_iff, Fin.forall_fin_two]
+      exact ⟨tle, Wle⟩
```
Comment (smorel394) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
    have le : iSup f ≤ U := iSup_le_iff.mpr (Fin.forall_fin_two.mpr ⟨tle, Wle⟩)
```

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean (hunk 11 above)
Comment (smorel394) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: @joelriou or @robin-carlier , do you have an opinion about that matter? To sum up, there are two lemmas currently called `Presheaf.addCommGrpCat_exact` and `Sheaf.addCommGrpCat_mono_exact`. The first one says that, if you have an exact sequence of presheaves of abelian  groups, then the sequence of global sections is exact in the middle. The second one says the same for a left exact sequence of sheaves of abelian groups.
I complained that the names were not descriptive enough, and made two suggestions:
* Calling the lemmas `ShortComplex.Exact.sections_exact` and `ShortComplex.Exact.sections_exact_of_mono_f`, so that we can use dot notation. (For both of them, the first explicit argument is of type `ShortComplex.Exact bla`.)
* Calling the lemmas `Presheaf.AddCommGrpCat.ShortComplex.sections_exact_of_exact` and `Sheaf.AddCommGrpCat.ShortComplex.sections_exact_of_exact_and_mono_f` which are more descriptive.

Is there a preferred style for mathlib?

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 27]
```diff
@@ -0,0 +1,50 @@
...
+
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]:
```suggestion
lemma Sheaf.addCommGrpCat_mono_exact {S : ShortComplex (Sheaf AddCommGrpCat X)}
    (hS : S.Exact) (hf : Mono S.f) (s : S.X₂.obj.obj (op U)) (h : S.g.hom.app (op U) s = 0) :
    ∃ (t : S.X₁.obj.obj (op U)), S.f.hom.app (op U) t = s :=
  Presheaf.addCommGrpCat_exact (((Functor.preservesFiniteLimits_tfae
    (forget AddCommGrpCat X)).out 1 3 rfl rfl).mpr (inferInstanceAs (Limits.PreservesFiniteLimits
    (forget AddCommGrpCat X))) S ⟨hS, hf⟩).left h

```

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 28]
```diff
@@ -0,0 +1,50 @@
...
+open TopologicalSpace Opposite CategoryTheory
+open scoped AlgebraicGeometry
+
+namespace TopCat
+
+variable {X : TopCat.{u}} {U : Opens X}
+
+set_option backward.isDefEq.respectTransparency false in
+theorem Presheaf.addCommGrpCat_exact {S : ShortComplex (Presheaf AddCommGrpCat.{u} X)}
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]:
```suggestion
theorem ShortComplex.Exact.presheaf_sections {S : ShortComplex (Presheaf AddCommGrpCat.{u} X)}
```
This allows dot notation, as Sophie suggests (you could have to exit the `TopCat` namespace though). The last one could be `ShortComplext.Exact.sheaf_sections_of_mono`, if you'd like. But I also think the current names are fine.

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 29]
```diff
@@ -0,0 +1,196 @@
...
+
+namespace TopCat
+
+namespace Presheaf
+
+variable {C : Type v} [Category.{w} C] (F : Presheaf C X)
+
+/-- A sheaf is flasque if all of the restriction morphisms are epimorphisms. -/
+class IsFlasque : Prop where
+  epi : ∀{U V : (Opens X)ᵒᵖ} (i : U ⟶ V), Epi (F.map i)
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
  epi : ∀ {U V : (Opens X)ᵒᵖ} (i : U ⟶ V), Epi (F.map i)
```
I've seen this a lot in your PRs. Please correct this throughout your code.

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 30]
```diff
@@ -0,0 +1,196 @@
...
+
+namespace IsFlasque
+
+instance (priority := low) [h : IsFlasque F]
+    {U V : (Opens X)ᵒᵖ} (i : U ⟶ V) : Epi (F.map i) := h.epi i
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
attribute [instance low] IsFlasque.epi
```

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean (hunk 11 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: I changed the names to your first suggestion for now

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 31]
```diff
@@ -0,0 +1,196 @@
...
+    by_cases hij : i = j
+    · subst hij; rfl
+    obtain h₁ | h₁ := h i.property j.property (fun h ↦ hij (SetCoe.ext_iff.mp h))
+    · simp only [← CategoryOfElements.map_snd (Classical.choice h₁).2, Functor.comp_obj,
+        Functor.comp_map, ConcreteCategory.forget_map_eq_coe,
+        ← CategoryTheory.comp_apply, ← Functor.map_comp]
+      rfl
+    · simp only [← CategoryOfElements.map_snd (Classical.choice h₁).2, Functor.comp_obj,
+        Functor.comp_map, ConcreteCategory.forget_map_eq_coe, ← CategoryTheory.comp_apply,
+        ← Functor.map_comp]
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
    · simp only [← CategoryOfElements.map_snd h₁.some.2, Functor.comp_obj,
        Functor.comp_map, ConcreteCategory.forget_map_eq_coe,
        ← CategoryTheory.comp_apply, ← Functor.map_comp]
      rfl
    · simp only [← CategoryOfElements.map_snd h₁.some.2, Functor.comp_obj,
        Functor.comp_map, ConcreteCategory.forget_map_eq_coe, ← CategoryTheory.comp_apply,
        ← Functor.map_comp]
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 32]
```diff
@@ -0,0 +1,196 @@
...
+        (Y := ⟨op (iSup f), t₅⟩) ?_
+      exact CategoryOfElements.homMk _ _ (homOfLE le).op comp
+    -- We prove that `t₆` is bigger than `t` for the preorder used on `Under S.g s`.
+    have : Nonempty (t₆ ⟶ t) := Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
+      (homOfLE (le_iSup f 0)).op (ht₅ 0)) (by cat_disch))
+    exact leOfHom (Classical.choice ((ht t₆) this)).right.1.unop ((le_iSup f 1) hW)
+  use t.right.2 |_ U
+  rw [map_restrict, ← tcomp, restrict_restrict]
+  change (CategoryTheory.ConcreteCategory.hom (S.X₃.obj.map (𝟙 _))) s = _
+  simp [CategoryTheory.Functor.map_id]
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
  refine (AddCommGrpCat.epi_iff_surjective _).mpr (fun s ↦ ?_)
  -- We want to find a preimage of `s` by `S.g`.
  -- We apply Zorn's lemma to obtain a term `t` of `Under S.g s` that is maximal.
  obtain ⟨t, ht⟩ := exists_maximal_of_chains_bounded
    (structured_arrows_elements_sheaf_chains_bounded S.g s)
    (fun ⟨f⟩ ⟨g⟩ ↦ ⟨g ≫ f⟩)
  have tle : t.right.1.unop ≤ U := leOfHom t.hom.1.unop
  have tcomp : s |_ t.right.1.unop = S.g.hom.app t.right.1 t.right.2 :=
      CategoryOfElements.map_snd t.hom
  -- We get a section `t.right.2` of `S.g` defined on an open subset `t.right.1.unop` of `U`,
  -- that is sent to the restriction of `s` by `S.g`.
  have : U ≤ t.right.1.unop := by
  -- Prove that the set of definition of `t.right.2` contains `U`.
    intro x hx
    have := (isLocallySurjective_iff_epi S.g).mpr hS.epi_g
    -- We use local surjectivity to find a section `t₁` of `S.X₂` on a neighborhood `W` of `x`
    -- that maps to `s |_ W` by `S.g`.
    obtain ⟨W, Wle, ⟨t₁, ht₁⟩, hW⟩ := (isLocallySurjective_iff S.g.hom).mp this U s x hx
    --`t.right.2` and `t₁` need not agree on their overlap so we need to deal with their
    -- difference `t₂`
    let t₂ := t.right.2 |_ (t.right.1.unop ⊓ W) - t₁ |_ (t.right.1.unop ⊓ W)
    have : (S.g.hom.app (op (t.right.1.unop ⊓ W))) t₂ = 0 := by
      simp [map_restrict, ← tcomp, restrict_restrict, ht₁, t₂]
    -- Since `S` is exact and `t₂` maps to zero, we can lift it to a section `t₃` of `S.X₁`
    obtain ⟨t₃, ht₃⟩ := addCommGrpCat_mono_exact hS.1 hS.2 t₂ this
    -- Using that `S.X₁` is flasque, we can lift `t₃` to a section on `W`.
    obtain ⟨t₄, (ht₄ : t₄ |_ (t.right.1.unop ⊓ W) = t₃)⟩ := (AddCommGrpCat.epi_iff_surjective
      (S.X₁.obj.map (homOfLE inf_le_right).op)).mp inferInstance t₃
    let f : Fin 2 → Opens X := ![t.right.1.unop, W]
    let sf : (i : Fin 2) → S.X₂.obj.obj (op (f i))
    | 0 => t.right.2
    | 1 => t₁ + (S.f.hom.app (op W)) t₄
    have : sf 0 |_ (t.right.1.unop ⊓ W) = sf 1 |_ (t.right.1.unop ⊓ W) := by
      dsimp [sf, f]
      simp only [restrict_sum, ← map_restrict, ht₄, ht₃, t₂, add_sub_cancel]
    -- We glue `t.right.2` and `t₁ + (S.f.hom.app (op W)) t₄` together to form `t₅`
    obtain ⟨t₅, ht₅, _⟩ : ∃! t₅, IsGluing S.X₂.obj f sf t₅ := by
      apply Sheaf.existsUnique_gluing
      simp only [IsCompatible, Fin.forall_fin_two]
      refine ⟨⟨rfl, this⟩, Eq.symm ?_, rfl⟩
      apply_fun (fun s ↦ restrictOpen s (W ⊓ t.right.1.unop) (le_of_eq (inf_comm _ _))) at this
      rw [restrict_restrict, restrict_restrict] at this
      exact this
    have le : iSup f ≤ U := iSup_le_iff.mpr (Fin.forall_fin_two.mpr ⟨tle, Wle⟩)
    -- We upgrade `t₅` to an object in `Under S.g s` that is defined on `t.right.1.unop ⊔ W`.
    let t₆ : Under S.g s :=
      StructuredArrow.mk (S := ⟨op U, s⟩)
        (T := (Functor.whiskerRight S.g.hom (CategoryTheory.forget AddCommGrpCat)).mapElements)
        (Y := ⟨op (iSup f), t₅⟩) <| CategoryOfElements.homMk _ _ (homOfLE le).op (by
          refine (eq_app_of_locally_eq ht₅ (by rw [Fin.forall_fin_two]; exact ⟨tle, Wle⟩) ?_).symm
          rw [Fin.forall_fin_two]
          refine ⟨tcomp.symm, ?_⟩
          simp only [Fin.isValue, Functor.comp_obj, map_add, homOfLE_leOfHom, sf, f]
          have : (S.f.hom.app (op W) ≫ S.g.hom.app (op W)) = 0 := by
            rw [← NatTrans.comp_app, ← ObjectProperty.FullSubcategory.comp_hom, S.zero]
            rfl
          simp [← CategoryTheory.comp_apply, this, ht₁]
          rfl)
    -- We prove that `t₆` is bigger than `t` for the preorder used on `Under S.g s`.
    have : Nonempty (t₆ ⟶ t) := Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
      (homOfLE (le_iSup f 0)).op (ht₅ 0)) (by cat_disch))
    exact leOfHom ((ht t₆) this).some.right.1.unop ((le_iSup f 1) hW)
  use t.right.2 |_ U
  simp [map_restrict, ← tcomp, restrict_restrict]
```

This requires adding a new `simp` lemma in `Topology.Sheaves.Presheaf´:
```lean
@[simp]
lemma restrict_self {F : X.Presheaf C} {U : Opens X} (x : ToType (F.obj (op U))) :
    x |_ U = x := by
  simp [restrictOpen, restrict]
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 33]
```diff
@@ -0,0 +1,196 @@
...
+an open `V` and a section of `F(V)` that maps to `s |_ V` via `g`. -/
+abbrev Under := StructuredArrow ⟨op U, s⟩ (Functor.whiskerRight g.hom
+  (CategoryTheory.forget AddCommGrpCat.{u})).mapElements
+
+/- The next lemma proves that the relation `fun x y ↦ Nonempty (y ⟶ x)` on `Under g s`
+satisfies the requirements for applying Zorn's lemma -/
+lemma structured_arrows_elements_sheaf_chains_bounded (c : Set (Under g s))
+    (h : IsChain (fun x y ↦ Nonempty (y ⟶ x)) c) : ∃ ub, ∀ a ∈ c, Nonempty (ub ⟶ a) := by
+  let f : c → (Opens X) := fun x => x.1.right.1.unop
+  obtain ⟨t, ht, _⟩ : ∃! s_1, IsGluing F.obj f (fun x => x.val.right.2) s_1 := by
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Flasque.lean:88]: I must say I'm not convinced that defining this artificial ordering on the structured arrow category is the way to go. I think the old approach looked slightly cleaner. But the principled way to go about this would be to define a `Preorder` version of `StructuredArrow`, with the proper API which connects it to the category theory version. I don't know how useful that general construction is. What do you think @smorel394 @joelriou? I certainly don't want this matter to block this PR, which is getting in good shape

Comment (smorel394) [reply Mathlib/Topology/Sheaves/Flasque.lean:88]: This is just the dual of the preorder underlying the `StructuredArrow` category. (Where the preorder underlying a category `C` is given by:  `X ≤ Y` if and only if there is an arrow from `X` to `Y`.) 
So this is almost the dual of `[CategoryTheory.ThinSkeleton](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Skeletal.html#CategoryTheory.ThinSkeleton)`, except that `thinSkeleton C` takes isomorphism classes. Maybe I should try to use `thinSkeleton C`?

My only grudge against the old proof is that it felt wrong to define a structure that would never be used again for something that is already defined in mathlib.

Comment (smorel394) [reply Mathlib/Topology/Sheaves/Flasque.lean:88]: You can define a `Preorder` on any category (what I was calling the "underlying preorder"), so in particular on `StructuredArrow`, but I don't know how useful it would be for non-thin categories.

Comment (dagurtomas) [reply Mathlib/Topology/Sheaves/Flasque.lean:88]: Yeah I understand, my "more principled" suggestion is to define a version of `StructuredArrow` strictly for preorders, without going via category theory. But probably this is useless outside of category theory anyway.

In general, defining custom structures for a proof that are useless elsewhere in mathlib is ok, but I agree that we should try to use existing API where possible. 

Of course, we should not have a `Preorder` instance on every category. However, it might be useful to define a type synonym for the "underlying preorder", with some minimal API, so that one can apply things like Zorn's lemma.

Comment (smorel394) [reply Mathlib/Topology/Sheaves/Flasque.lean:88]: I'm not sure that's necessary, we do have `CategoryTheory.ThinSkeleton`. I think what is needed is more API for that, as well as more `Quiver.IsThin` instances on some categories, like the `StructuredArrows` categories constructed from thin categories that appear here.

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 34]
```diff
@@ -0,0 +1,55 @@
...
+@[expose] public section
+
+universe u
+
+open TopologicalSpace Opposite CategoryTheory TopCat
+open scoped AlgebraicGeometry
+
+variable {X : TopCat.{u}} {U : Opens X}
+
+namespace ShortComplex.Exact
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: Note that `ShortComplex` is in the `CategoryTheory` namespace, so that you should enter it.

File: Mathlib/Topology/Sheaves/Flasque.lean (hunk 33 above)
Comment (joelriou) [reply Mathlib/Topology/Sheaves/Flasque.lean:88]: I think it is good to take advantage of the fact that `IsChain` (and `List.IsChain`) allow a custom relation. We probably do not really need more API.

Comment (smorel394) [reply Mathlib/Topology/Sheaves/Flasque.lean:88]: I have been rewriting the code using the order relation on `ThinSkeleton` (or rather its dual, since we are looking for minimal elements). I am not convinced that it makes it more readable, in particular it adds a layer of projections everywhere. It also feels particularly stupid because the category I use is equal to its `ThinSkeleton` but I can't say that, so I'm constantly doing `rw [Quotient.out_eq]`.

Comment (smorel394) [reply Mathlib/Topology/Sheaves/Flasque.lean:88]: So here is an attempt using a preorder on a type synonym of a category. First you need to put this somewhere (in my local copy I put it at the end of `CategoryTheory/Skeletal.lean`:

```
section

def UnderlyingPreorder := C

instance : LE (UnderlyingPreorder C) :=
  ⟨fun x y : C ↦ Nonempty (x ⟶ y)⟩

instance : Preorder (UnderlyingPreorder C) where
  le_refl _ := Nonempty.intro (𝟙 _)
  le_trans _ _ _ hab hbc := Nonempty.intro (Classical.choice hab ≫ Classical.choice hbc)

variable [Quiver.IsThin C] (hC : Skeletal C)

variable {C} in
def UnderlyingPreorder.partialOrder : PartialOrder (UnderlyingPreorder C) where
  __ := inferInstanceAs (Preorder (UnderlyingPreorder C))
  le_antisymm _ _ hxy hyx :=
    hC (Nonempty.intro (iso_of_both_ways (Classical.choice hxy) (Classical.choice hyx)))

end
```

Then you do this in `Flasque.lean` starting at line 80 (obviously the two `sorry`ed statements would have to go somewhere else, probably in the file defining `StructuredArrows`):

```
abbrev Under := (UnderlyingPreorder (StructuredArrow ⟨op U, s⟩ (Functor.whiskerRight g.hom
  (CategoryTheory.forget AddCommGrpCat.{u})).mapElements))ᵒᵈ

open ThinSkeleton

instance : Quiver.IsThin (StructuredArrow ⟨op U, s⟩
    (NatTrans.mapElements (Functor.whiskerRight g.hom (CategoryTheory.forget AddCommGrpCat)))) :=
    sorry

lemma structuredArrow_skeletal : Skeletal ((StructuredArrow ⟨op U, s⟩
    (NatTrans.mapElements (Functor.whiskerRight g.hom (CategoryTheory.forget AddCommGrpCat))))) :=
  sorry

instance : PartialOrder (Under g s) := by
  letI := UnderlyingPreorder.partialOrder (structuredArrow_skeletal g s)
  infer_instance

set_option backward.isDefEq.respectTransparency false in
/- The next lemma proves that the relation `fun x y ↦ Nonempty (y ⟶ x)` on `Under g s`
satisfies the requirements for applying Zorn's lemma -/
lemma structured_arrows_elements_sheaf_chains_bounded (c : Set (Under g s))
    (h : IsChain (· ≤ ·) c) : ∃ ub, ∀ a ∈ c, a ≤ ub := by
  let f : c → (Opens X) := fun x => x.val.right.1.unop
  obtain ⟨t, ht, _⟩ : ∃! s_1, IsGluing F.obj f (fun x => x.val.right.2) s_1 := by
    refine Sheaf.existsUnique_gluing F _ _ (fun i j ↦ ?_)
    by_cases hij : i = j
    · subst hij; rfl
    obtain h₁ | h₁ := h i.property j.property (fun h ↦ hij (SetCoe.ext_iff.mp h)) <;>
    rw [← dsimp% (Classical.choice h₁).2.property, ← CategoryTheory.comp_apply,
      ← Functor.map_comp] <;>
    rfl
  have le₁ : iSup f ≤ U := iSup_le <| fun j => leOfHom j.val.hom.1.unop
  have le₂ : ∀ i, i ∈ c → unop i.right.1 ≤ iSup f := fun i hi ↦ le_iSup f ⟨i, hi⟩
  use ((StructuredArrow.mk (CategoryOfElements.homMk _ _ (homOfLE le₁).op
    (eq_app_of_locally_eq ht (fun i ↦ leOfHom i.val.hom.1.unop)
      (fun i ↦ (CategoryOfElements.map_snd i.val.hom).symm)).symm :
      ⟨op U, s⟩ ⟶ (Functor.whiskerRight g.hom
      (CategoryTheory.forget AddCommGrpCat)).mapElements.obj ⟨op (iSup f), t⟩)))
  exact fun i hi ↦ Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
    (homOfLE (le₂ i hi)).op (ht ⟨i, hi⟩)) (by cat_disch))

set_option backward.isDefEq.respectTransparency false in
/-- Given a short exact sequence of sheaves, `0 ⟶ 𝓕 ⟶ 𝓖 ⟶ 𝓗 ⟶ 0`, if `𝓕` is flasque then
`𝓖(U) ⟶ 𝓗(U)` is surjective, for any open `U`. -/
theorem epi_of_shortExact {S : ShortComplex (Sheaf AddCommGrpCat X)} (hS : S.ShortExact)
    [IsFlasque S.X₁] : Epi (S.g.1.app (op U)) := by
  refine (AddCommGrpCat.epi_iff_surjective _).mpr (fun s ↦ ?_)
  -- We want to find a preimage of `s` by `S.g`.
  -- We apply Zorn's lemma to obtain a term `t` of `Under S.g s` that is maximal.
  obtain ⟨t, ht⟩ := exists_maximal_of_chains_bounded
    (structured_arrows_elements_sheaf_chains_bounded S.g s) le_trans
  have tle : t.right.1.unop ≤ U := leOfHom t.hom.1.unop
  have tcomp : s |_ t.right.1.unop = S.g.hom.app t.right.1 t.right.2 :=
      CategoryOfElements.map_snd t.hom
  -- We get a section `t.right.2` of `S.g` defined on an open subset `t.right.1.unop`
  -- of `U`, that is sent to the restriction of `s` by `S.g`.
  have : U ≤ t.right.1.unop := by
  -- Prove that the set of definition of `t.right.2` contains `U`.
    intro x hx
    have := (isLocallySurjective_iff_epi S.g).mpr hS.epi_g
    -- We use local surjectivity to find a section `t₁` of `S.X₂` on a neighborhood `W` of `x`
    -- that maps to `s |_ W` by `S.g`.
    obtain ⟨W, Wle, ⟨t₁, ht₁⟩, hW⟩ := (isLocallySurjective_iff S.g.hom).mp this U s x hx
    --`t.right.2` and `t₁` need not agree on their overlap so we need to deal with their
    -- difference `t₂`
    let t₂ := t.right.2 |_ (t.right.1.unop ⊓ W) - t₁ |_ (t.right.1.unop ⊓ W)
    have : (S.g.hom.app (op (t.right.1.unop ⊓ W))) t₂ = 0 := by
      simp [map_restrict, ← tcomp, restrict_restrict, ht₁, t₂]
    -- Since `S` is exact and `t₂` maps to zero, we can lift it to a section `t₃` of `S.X₁`
    obtain ⟨t₃, ht₃⟩ := ShortComplex.Exact.sheaf_sections_of_mono hS.1 hS.2 t₂ this
    -- Using that `S.X₁` is flasque, we can lift `t₃` to a section on `W`.
    obtain ⟨t₄, (ht₄ : t₄ |_ (t.right.1.unop ⊓ W) = t₃)⟩ := (AddCommGrpCat.epi_iff_surjective
      (S.X₁.obj.map (homOfLE inf_le_right).op)).mp inferInstance t₃
    let f : Fin 2 → Opens X := ![t.right.1.unop, W]
    let sf : (i : Fin 2) → S.X₂.obj.obj (op (f i))
    | 0 => t.right.2
    | 1 => t₁ + (S.f.hom.app (op W)) t₄
    have : sf 0 |_ (t.right.1.unop ⊓ W) = sf 1 |_ (t.right.1.unop ⊓ W) := by
      dsimp [sf, f]
      simp only [restrict_sum, ← map_restrict, ht₄, ht₃, t₂, add_sub_cancel]
    -- We glue `t.right.2` and `t₁ + (S.f.hom.app (op W)) t₄` together to form `t₅`.
    obtain ⟨t₅, ht₅, _⟩ : ∃! t₅, IsGluing S.X₂.obj f sf t₅ := by
      apply Sheaf.existsUnique_gluing
      simp only [IsCompatible, Fin.forall_fin_two]
      refine ⟨⟨rfl, this⟩, Eq.symm ?_, rfl⟩
      apply_fun (fun s ↦ restrictOpen s (W ⊓ t.right.1.unop) (le_of_eq (inf_comm _ _))) at this
      rw [restrict_restrict, restrict_restrict] at this
      exact this
    have le : iSup f ≤ U := iSup_le_iff.mpr (Fin.forall_fin_two.mpr ⟨tle, Wle⟩)
    -- We upgrade `t₅` to an object in `Under S.g s` that is defined on `t.right.1.unop ⊔ W`.
    let t₆ := StructuredArrow.mk (S := ⟨op U, s⟩)
        (T := (Functor.whiskerRight S.g.hom (CategoryTheory.forget AddCommGrpCat)).mapElements)
        (Y := ⟨op (iSup f), t₅⟩) <| CategoryOfElements.homMk _ _ (homOfLE le).op (by
          refine (eq_app_of_locally_eq ht₅ (by rw [Fin.forall_fin_two]; exact ⟨tle, Wle⟩) ?_).symm
          rw [Fin.forall_fin_two]
          refine ⟨tcomp.symm, ?_⟩
          simp only [Fin.isValue, Functor.comp_obj, map_add, homOfLE_leOfHom, sf, f]
          have : (S.f.hom.app (op W) ≫ S.g.hom.app (op W)) = 0 := by
            rw [← NatTrans.comp_app, ← ObjectProperty.FullSubcategory.comp_hom, S.zero]
            rfl
          simp [← CategoryTheory.comp_apply, this, ht₁]
          rfl)
    -- We prove that `t₆` is bigger than `t` for the preorder used on `Under S.g s`.
    -- (This implies that they are equal by the maximality of `t`.)
    have : t ≤ t₆ := by
      exact Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
        (homOfLE (le_iSup f 0)).op (ht₅ 0)) (by cat_disch))
    rw [le_antisymm this (ht t₆ this)]
    exact (le_iSup f 1) hW
  use t.right.2 |_ U
  simp [map_restrict, ← tcomp, restrict_restrict]
```

Is this an improvement? I don't really care what solution we choose (including the original code), but it would be nice to get this PR merged.

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean (hunk 34 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: Ah, that's why dot notation still wasn't working. Thank you!

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 35]
```diff
@@ -0,0 +1,190 @@
...
+    · subst hij; rfl
+    obtain h₁ | h₁ := h i.property j.property (fun h ↦ hij (SetCoe.ext_iff.mp h))
+    · simp only [← CategoryOfElements.map_snd h₁.some.2, Functor.comp_obj,
+        Functor.comp_map, ConcreteCategory.forget_map_eq_coe,
+        ← CategoryTheory.comp_apply, ← Functor.map_comp]
+      rfl
+    · simp only [← CategoryOfElements.map_snd h₁.some.2, Functor.comp_obj,
+        Functor.comp_map, ConcreteCategory.forget_map_eq_coe, ← CategoryTheory.comp_apply,
+        ← Functor.map_comp]
+      rfl
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
    obtain (rfl | h₁ | h₁) : i = j ∨ Nonempty (i.val ⟶ j.val) ∨ Nonempty (j.val ⟶ i.val) := by
      grind [h i.property j.property]
    · rfl
    all_goals
      simp only [← CategoryOfElements.map_snd h₁.some.2, Functor.comp_obj,
        Functor.comp_map, ConcreteCategory.forget_map_eq_coe, ← CategoryTheory.comp_apply,
        ← Functor.map_comp]
      rfl
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 36]
```diff
@@ -0,0 +1,190 @@
...
+            rw [← NatTrans.comp_app, ← ObjectProperty.FullSubcategory.comp_hom, S.zero]
+            rfl
+          simp [← CategoryTheory.comp_apply, this, ht₁]
+          rfl)
+    -- We prove that `t₆` is bigger than `t` for the preorder used on `Under S.g s`.
+    have : Nonempty (t₆ ⟶ t) := Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
+      (homOfLE (le_iSup f 0)).op (ht₅ 0)) (by cat_disch))
+    exact leOfHom ((ht t₆) this).some.right.1.unop ((le_iSup f 1) hW)
+  use t.right.2 |_ U
+  simp [map_restrict, ← tcomp, restrict_restrict]
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
  exact ⟨t.right.2 |_ U, by simp [map_restrict, ← tcomp, restrict_restrict]⟩
```

**Review by dagurtomas — COMMENTED** [review]
Thanks! 🎉 

maintainer delegate

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean [hunk 37]
```diff
@@ -0,0 +1,55 @@
...
+    {S : ShortComplex (Presheaf AddCommGrpCat.{u} X)}
+    (hS : S.Exact) {s : S.X₂.obj (Opposite.op U)} (h : S.g.app (Opposite.op U) s = 0) :
+    ∃ (t : S.X₁.obj (Opposite.op U)), S.f.app (Opposite.op U) t = s := by
+  dsimp [Presheaf] at S
+  let F := (evaluation (Opens X)ᵒᵖ AddCommGrpCat.{u}).obj (Opposite.op U)
+  exact (ShortComplex.ab_exact_iff (S.map F)).mp (((Functor.exact_tfae F).out 1 3 rfl rfl).mpr
+    ⟨inferInstance, inferInstance⟩ S hS) _ h
+
+lemma sheaf_sections_of_mono {S : ShortComplex (TopCat.Sheaf AddCommGrpCat X)}
+    (hS : S.Exact) (hf : Mono S.f) (s : S.X₂.obj.obj (Opposite.op U))
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: The names should be changed. It should probably be in the namespaces `TopCat.Presheaf/Sheaf` (even though this prevents the use of dot notation).

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 38]
```diff
@@ -0,0 +1,190 @@
...
+
+/-- A sheaf is flasque if all of the restriction morphisms are epimorphisms. -/
+class IsFlasque : Prop where
+  epi : ∀ {U V : (Opens X)ᵒᵖ} (i : U ⟶ V), Epi (F.map i)
+
+namespace IsFlasque
+
+attribute [instance low] IsFlasque.epi
+
+theorem pushforward_isFlasque {Y : TopCat.{u}} [IsFlasque F] (f : X ⟶ Y) :
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]: Should not this be an instance?

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 39]
```diff
@@ -0,0 +1,190 @@
...
+end Presheaf
+
+namespace Sheaf
+
+/-- A sheaf is flasque if it is flasque as a presheaf -/
+abbrev IsFlasque {C : Type v} [Category.{w} C] (F : Sheaf C X) := Presheaf.IsFlasque F.obj
+
+namespace IsFlasque
+
+theorem pushforward_isFlasque {C : Type v} [Category.{w} C] {Y : TopCat.{u}} (F : Sheaf C X)
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]: Same here.

Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/Flasque.lean]: They certainly should, thanks!

File: Mathlib/Topology/Sheaves/AddCommGrpCat.lean (hunk 37 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: I changed them to `TopCat.Presheaf.sections_of_exact` and `TopCat.Sheaf.sections_of_left_exact`.

Comment (dagurtomas) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: I liked the old names which allowed dot notation! But I don't feel strongly about it. If we're going with names in the `TopCat.(Pre)Sheaf` namespace, what comes after the namespace should be more descriptive than `sections_of_exact`. Maybe `sections_exact_of_exact`?

Comment (Brian-Nugent) [reply Mathlib/Topology/Sheaves/AddCommGrpCat.lean]: You know what they say about changing lemma names? 7th times the charm! :)

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 40]
```diff
@@ -0,0 +1,186 @@
...
+          rfl)
+    -- We prove that `t₆` is bigger than `t` for the preorder used on `Under S.g s`.
+    have : Nonempty (t₆ ⟶ t) := Nonempty.intro (StructuredArrow.homMk (CategoryOfElements.homMk _ _
+      (homOfLE (le_iSup f 0)).op (ht₅ 0)) (by cat_disch))
+    exact leOfHom ((ht t₆) this).some.right.1.unop ((le_iSup f 1) hW)
+  exact ⟨t.right.2 |_ U, by simp [map_restrict, ← tcomp, restrict_restrict]⟩
+
+/-- Given a short exact sequence of sheaves, `0 ⟶ 𝓕 ⟶ 𝓖 ⟶ 𝓗 ⟶ 0`, if `𝓕` and `𝓖` are flasque,
+then `𝓗` is flasque. -/
+theorem X₃_shortExact_isFlasque_X₁_isFlasque_X₂ {S : ShortComplex (Sheaf AddCommGrpCat X)}
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
theorem of_shortExact_of_isFlasque₁₂ {S : ShortComplex (Sheaf AddCommGrpCat X)}
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 41]
```diff
@@ -0,0 +1,186 @@
...
+## Main definition
+
+* `TopCat.Sheaf.IsFlasque`: A sheaf is flasque if all of the restriction morphisms are epimorphisms.
+
+## Main results
+
+* `TopCat.Sheaf.IsFlasque.epi_of_shortExact_Γ_map`: Given a short exact sequence of sheaves,
+  `0 ⟶ 𝓕 ⟶ 𝓖 ⟶ 𝓗 ⟶ 0`, if `𝓕` is flasque then `𝓖(U) ⟶ 𝓗(U)` is surjective, for any open `U`.
+
+* `TopCat.Sheaf.IsFlasque.X₃_shortExact_isFlasque_X₁_isFlasque_X₂`: Given a short exact sequence of
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
* `TopCat.Sheaf.IsFlasque.of_shortExact_of_isFlasque₁₂ `: Given a short exact sequence of
```

File: Mathlib/Topology/Sheaves/Flasque.lean [hunk 42]
```diff
@@ -0,0 +1,186 @@
...
+
+We define and prove basic properties about flasque sheaves on topological spaces.
+
+## Main definition
+
+* `TopCat.Sheaf.IsFlasque`: A sheaf is flasque if all of the restriction morphisms are epimorphisms.
+
+## Main results
+
+* `TopCat.Sheaf.IsFlasque.epi_of_shortExact_Γ_map`: Given a short exact sequence of sheaves,
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Flasque.lean]:
```suggestion
* `TopCat.Sheaf.IsFlasque.epi_of_shortExact`: Given a short exact sequence of sheaves,
```
